US08492388B2
To a stirred solution of 1-methyl-1H-tetrazole (4.54 g, 54 mmol) in anhydrous THF (200 mL), cooled to 0° C. with a brine/ice bath, was added dropwise a solution of isopropylmagnesium chloride (2 M in THF, 27 mL, 54 mmol). After the addition was over, the resulting cloudy suspension was stirred for 15 min at 0° C. A solution of 3-(dimethylamino)-N-methoxy-N-methylbenzamide (9.37 g, 45 mmol) in THF (80 mL) was then added dropwise while keeping the internal temperature below 5° C. The reaction mixture was then allowed to warm up and stirred at room temperature for 1 h. A mixture of ice-cold water (50 mL) and aq. HCl (1 M, 55 mL) was added to the reaction mixture, the layers were separated, the water phase was extracted with ethyl acetate (3×50 mL) and the combined organic layers were dried. Purification on silica gel followed by recrystallization from diethyl ether afforded [3-(dimethylamino)phenyl](1-methyl-1H-tetrazol-5-yl)methanone as a bright yellow solid [3.06 g, yield 25%; HPLC/MS:m/z=232 (M+H); log P(HCOOH)=2.21].

reactant | 1-methyl-1H-tetrazole | 54 mmol, 4.54 g | CN1N=NN=C1 | C2H4N4
reactant | isopropylmagnesium chloride | 54 mmol, 2 M, 27 mL | C(C)(C)[Mg]Cl
reactant | 3-(dimethylamino)-N-methoxy-N-methylbenzamide | 45 mmol, 9.37 g | CN(C=1C=C(C(=O)N(C)OC)C=CC1)C | C11H16N2O2
reactant | HCl | 1 M, 55 mL | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | [3-(dimethylamino)phenyl](1-methyl-1H-tetrazol-5-yl)methanone | yield 25% | CN(C=1C=C(C=CC1)C(=O)C1=NN=NN1C)C | C11H13N5O
